US09403845B2
To Na2CO3 (183 mg, 1.71 mmol) was added water (1.5 ml) and acetonitrile (2 ml) and the solution was degassed for 5 min with argon. 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]pyridine (111 mg, 0.41 mmol), 6-bromo-N-ethoxy-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine (114 mg, 0.34 mmol) and Pd(dppf)Cl2 (25 mg, 0.034 mmol) were added sequentially followed by rinsing the flask with acetonitrile (2 ml). The mixture was stirred at 80° C. for 1.5 h followed by cooling to ambient temperature. Water and ethyl acetate were added then the phases were separated. The aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography eluting with ethyl acetate/heptane, gradient, afforded N-ethoxy-1-methyl-2,2-dioxo-6-[1-(3-pyridyl)pyrazol-4-yl]pyrido[3,2-c]thiazin-4-imine as a red solid as a single isomer.

reactant | Na2CO3 | 1.71 mmol, 183 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.5 ml | O | H2O
reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]pyridine | 0.41 mmol, 111 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=NC=CC1)C | C14H18BN3O2
reactant | 6-bromo-N-ethoxy-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine | 0.34 mmol, 114 mg | BrC=1C=CC=2N(S(CC(C2N1)=NOCC)(=O)=O)C | C10H12BrN3O3S
catalyst | Pd(dppf)Cl2 | 0.034 mmol, 25 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-ethoxy-1-methyl-2,2-dioxo-6-[1-(3-pyridyl)pyrazol-4-yl]pyrido[3,2-c]thiazin-4-imine | C(C)ON=C1C2=C(N(S(C1)(=O)=O)C)C=CC(=N2)C=2C=NN(C2)C=2C=NC=CC2 | C18H18N6O3S
